US07989624B2
Step C. (2E)-3-(1,3,3-Trimethyl-2-oxo-2,3-dihydro-1H-indol-7-yl)acrylic acid
To a solution of ethyl (2E)-3-(1,3,3-trimethyl-2-oxo-2,3-dihydro-1H-indol-7-yl)acrylate (25 mg, 0.091 mmol) in MeOH (1 mL) was added 1 N aqueous NaOH (0.1 mL) and the resulting mixture was stirred at ambient temperature for 18 h. To the reaction mixture was added 1 N aqueous HCl (0.1 mL) and the resulting mixture was concentrated to dryness under reduced pressure to give the title compound. MS: m/z=246 (M+1).

reactant | ethyl (2E)-3-(1,3,3-trimethyl-2-oxo-2,3-dihydro-1H-indol-7-yl)acrylate | 0.091 mmol, 25 mg | CN1C(C(C2=CC=CC(=C12)/C=C/C(=O)OCC)(C)C)=O | C16H19NO3
reactant | NaOH | 1 N, 0.1 mL | [OH-].[Na+]
reactant | HCl | 1 N, 0.1 mL | Cl | ClH
solvent | MeOH | 1 mL | CO | CH4O
product | (2E)-3-(1,3,3-Trimethyl-2-oxo-2,3-dihydro-1H-indol-7-yl)acrylic acid | CN1C(C(C2=CC=CC(=C12)/C=C/C(=O)O)(C)C)=O | C14H15NO3
